US07553854B2
To the solution of 2-chloro-6-methoxybenzo[d]thiazole (1.0 g, 5 mmol) in 5.5 ml of NMP was added (1R,2R)-2-aminocyclohexanol hydrochloride (910 mg, 6 mmol) and DIPEA (2.44 ml, 14 mmol). The reaction solution was stirred at 115° C. for 96 hours. The crude reaction solution was purified by prep HPLC to give purified fractions that was combined and neutralized with solid NaHCO3. The resulting solution was extracted with ethyl acetate (2×300 ml). The combined organic layers were washed with water (60 ml) and brine (60 ml), then dried over Na2SO4 and evaporated in vacuo to give (1R,2R)-2-(6-methoxybenzo[d]thiazol-2-ylamino)cyclohexanol (1.06 g, 3.81 mmol) as an ivory solid. ES/MS m/z 279.1 (MH+).

reactant | 2-chloro-6-methoxybenzo[d]thiazole | 5 mmol, 1.0 g | ClC=1SC2=C(N1)C=CC(=C2)OC | C8H6ClNOS
reactant | (1R,2R)-2-aminocyclohexanol hydrochloride | 6 mmol, 910 mg | Cl.N[C@H]1[C@@H](CCCC1)O
reactant | DIPEA | 14 mmol, 2.44 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 5.5 ml | CN1CCCC1=O | C5H9NO
product | (1R,2R)-2-(6-methoxybenzo[d]thiazol-2-ylamino)cyclohexanol | 3.81 mmol, 1.06 g | COC1=CC2=C(N=C(S2)N[C@H]2[C@@H](CCCC2)O)C=C1 | C14H18N2O2S
